US04472305
Condensation of BocLeuOH (2.0 g.) and HNleNH2 (1.0 g.) by the mixed anhydride method using isobutyl chloroformate gave BocLeu-NleNH2 in 75% yield. De-t-butoxycarbonylation of BocLeu-NleNH2 (1.42 g.) using hydrogen chloride in dioxane gave HLeu-NleNH2 in 88% yield. Condensation of ZGlyOSu (1.91 g.) and HLeu-NleNH2 (0.95 g.) by the activated ester method gave ZGly-Leu-NleNH2 in 79% yield. Debenzyloxycarbonylation of ZGly-Leu-NleNH2 (1.40 g.) by hydrogenation with palladium catalyst gave HGly-Leu-NleNH2 in 67% yield.

reactant | BocLeuOH | 2.0 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | HNleNH2 | 1.0 g | N[C@@H](CCCC)C(=O)N | C6H14N2O
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | BocLeu-NleNH2 | 75% yield | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCC)C(=O)N)C(=O)OC(C)(C)C | C17H33N3O4
